US05654322
2-Acetylamino-5-methyl-1,3,4-thiadiazole:
To a mixture of toluene (20 ml) and triethylamine(2.63 g) was added 2-amino-5- methyl-1,3,4-thiadiazole (3.0 g) and acetic anhydride (3.2 g). The mixture was heated under reflux for 2.5 hours. After cooling, the precipitated solid was filtrated, washed with water and dried. The title compound(3.65 g) was obtained.

reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
reactant | 2-amino-5- methyl-1,3,4-thiadiazole | 3.0 g | NC=1SC(=NN1)C | C3H5N3S
reactant | acetic anhydride | 3.2 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | triethylamine | 2.63 g | C(C)N(CC)CC | C6H15N
product | 2-Acetylamino-5-methyl-1,3,4-thiadiazole | 3.65 g | C(C)(=O)NC=1SC(=NN1)C | C5H7N3OS
